US07375119B2
Trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid (800 mg) obtained in Reference Example 1(2) is dissolved in chloroform (30 ml), and thereto are added morpholine (560 mg), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (1.24 g) and triethylamine (650 mg) under ice-cooling. The mixture is then stirred at room temperature for 19 hours. Ice-water is poured to the reaction solution and the mixture is extracted with chloroform. The organic layer is washed with 10% hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated brine successively and dried over sodium sulfate. The solvent is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent: chloroform, followed by chloroform/methanol=30/1) to give methyl trans-4-(morpholin-4-ylcarbonyl)cyclohexanecarboxylate (897 mg). APCI-MS M/Z:256[M+H]+

reactant | Trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid | 800 mg | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
reactant | morpholine | 560 mg | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 1.24 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 650 mg | C(C)N(CC)CC | C6H15N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl trans-4-(morpholin-4-ylcarbonyl)cyclohexanecarboxylate | 897 mg | N1(CCOCC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C13H21NO4
